US05519040
n-BuLi (4.0 mL, 6.4 mmol, 1.6M) was added dropwise to a -78° C. solution of 2-bromothiazole (1.0 g, 6.1 mmol) in dry Et2O (12 mL). After stirring at -78° C. for 1 h, hexanal (0.77 mL, 6.4 mmol) was added and the solution stirred for 30 min. before a solution of TBDMSCl (1.1 g, 7.3 mmol) in dry Et2O (5 mL) was added. The solution was allowed to warm to rt while stirring for 16 h. The reaction was quenched with water, the layers separated and the aqueous extracted with EtOAc. The combined extracts were dried (MgSO4) and condensed. The crude material was purified by flash chromatography using 30% EtOAc/hexane to give 0.70 g (62%) of 2-(1-hydroxyhexyl)thiazole.

reactant | n-BuLi | 6.4 mmol, 1.6M, 4.0 mL | [Li]CCCC
reactant | 2-bromothiazole | 6.1 mmol, 1.0 g | BrC=1SC=CN1 | C3H2BrNS
reactant | hexanal | 6.4 mmol, 0.77 mL | C(CCCCC)=O | C6H12O
reactant | TBDMSCl | 7.3 mmol, 1.1 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | Et2O | 12 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 2-(1-hydroxyhexyl)thiazole | 0.70 g, 62% | OC(CCCCC)C=1SC=CN1 | C9H15NOS
